US05556864
Following a procedure similar to that described in the first part of Preparation 17, 3.00 g of 2-chlorobenzaldehyde and 7.5 g of (triphenylphosphoranylidene)acetaldehyde were reacted in 100 ml of acetonitrile. The crude product thus obtained was purified by column chromatography through silica gel, using a 4:1 by volume mixture of hexane and ethyl acetate as the eluent, to give 2.44 g (yield 68%) of 3-(2-chlorophenyl)-2-propenal as a solid.

reactant | 2-chlorobenzaldehyde | 3.00 g | ClC1=C(C=O)C=CC=C1 | C7H5ClO
reactant | (triphenylphosphoranylidene)acetaldehyde | 7.5 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)(C1=CC=CC=C1)=CC=O | C20H17OP
solvent | acetonitrile | 100 ml | C(C)#N | C2H3N
product | 3-(2-chlorophenyl)-2-propenal | 2.44 g, yield 68% | ClC1=C(C=CC=C1)C=CC=O | C9H7ClO
